US05082945
1,1,2-Trichlorotrifluoroethane (3.8 g), phenyl disulphide (4.4 g), sodium dithionite (7 g) and sodium hydrogen phosphate (6 g) are stirred in dimethylformamide (20 cc) and water (10 cc) for 6 hours. After steam distillation and the usual treatment, 1,2-dichloro-1,2,2-trifluoroethyl phenyl sulphide (1.7 g) is obtained in 52% yield.

reactant | 1,1,2-Trichlorotrifluoroethane | 3.8 g | ClC(C(Cl)(F)F)(Cl)F | C2Cl3F3
reactant | phenyl disulphide | 4.4 g | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
reactant | sodium dithionite | 7 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | sodium hydrogen phosphate | 6 g | P(=O)(O)([O-])[O-].[Na+].[Na+]
solvent | dimethylformamide | 20 cc | CN(C=O)C | C3H7NO
solvent | water | 10 cc | O | H2O
product | 1,2-dichloro-1,2,2-trifluoroethyl phenyl sulphide | 1.7 g, 52% yield | C1(=CC=CC=C1)SC(C(F)(F)Cl)(F)Cl | C8H5Cl2F3S
